US04219559
To 3.96 parts of 1-(4-fluorobenzoyl)aziridine, dissolved in 16 parts of benzene, are added 3.25 parts of 1-[(4-fluorophenyl)methyl]-N-(4-piperidinyl)-1H-benzimidazol-2-amine, 90 parts of benzene and 45 parts of N,N-dimethylformamide. The whole is stirred and refluxed for 5 hours. The reaction mixture is cooled and poured onto water. The layers are separated and the aqueous phase is extracted with methylbenzene. The combined organic phases are dried, filtered and evaporated. The residue is crystallized from a mixture of 2-propanone and 2,2'-oxybispropane, yielding 1part (19%) of 4-fluoro-N-[2-{4-[1-(4-fluorophenylmethyl)-1H-benzimidazol-2-ylamino]-1-piperidinyl}ethyl]benzamide; mp. 193.7° C.

reactant | 1-(4-fluorobenzoyl)aziridine | FC1=CC=C(C(=O)N2CC2)C=C1 | C9H8FNO
reactant | 1-[(4-fluorophenyl)methyl]-N-(4-piperidinyl)-1H-benzimidazol-2-amine | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCNCC2 | C19H21FN4
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4-fluoro-N-[2-{4-[1-(4-fluorophenylmethyl)-1H-benzimidazol-2-ylamino]-1-piperidinyl}ethyl]benzamide | 19% | FC1=CC=C(C(=O)NCCN2CCC(CC2)NC2=NC3=C(N2CC2=CC=C(C=C2)F)C=CC=C3)C=C1 | C28H29F2N5O
